US06514968B1
Preparation 32 6-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.7068 g, 0.0022 mol) is added to a mixture of 6-fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.5245 g, 0.0017 mol) in THF (4 mL) and DMF (4 mL) and the mixture is heated to 75° C. After stirring for 6.5 h, the mixture is stored in the freezer overnight. Heating is resumed for an additional 2.5 h, at which time THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over sodium sulfate and concentrated under reduced pressure to give a residue. The residue is heated to 120° C. in DMF (8 mL) with lithium bromide (0.3412 g, 0.0039 mol) and lithium carbonate (0.2548 g, 0.0035 mol). After 2 h, DMF is removed under high vacuum and the mixture is partitioned between dichloromethane and water. The combined organic layers are washed with water, dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (100 mL) using dichloromethane/hexane (30/70 to 50/50) to give 0.2706 g (52%) of the title compound; MS (ESI−) for C19H13F2NO m/z 308.0 (M−H)−; IR (drift) 1511, 1483, 1465, 1450, 1336, 1222, 1215, 1172, 1157, 1138, 883, 858, 791, 777, 744 cm−1; 1H NMR (CDCl3) δ5.35, 5.44, 6.57, 6.95, 7.06-7.30, 8.01. Anal. Calcd for C19H13F2NO: C, 73.78; H, 4.24; N, 4.53. Found: C, 72.65; H, 4.20; N, 4.45.

reactant | Pyridinium bromide perbromide | 0.0022 mol, 0.7068 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 6-fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0017 mol, 0.5245 g | FC=1C=C2C=3C(CCCC3N(C2=CC1)CC1=CC=C(C=C1)F)=O | C19H15F2NO
reactant | lithium bromide | 0.0039 mol, 0.3412 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0035 mol, 0.2548 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol | 0.2706 g, 52% | FC=1C=C2C=3C(=CC=CC3N(C2=CC1)CC1=CC=C(C=C1)F)O | C19H13F2NO
